US07074801B1
3-(4-Fluorophenyl)-1-trityl-1H-4-pyrazolylboronic acid
47.5 g 4-bromo-3-(4-fluorophenyl)-1-trityl-1H-pyrazole was dissolved in 400 mL anhydrous tetrahydrofuran, and then 40.7 mL solution of 1.6 M n-butyl lithium in hexane was added dropwise thereto at −70° C. The mixture was stirred for 30 minutes, 17.2 mL triisopropyl borate was added dropwise thereto, and the mixture was stirred at −70° C. for 1 hour and at −40° C. for 1 hour. The temperature was increased to 0° C., 50 mL aqueous saturated ammonium chloride solution was added thereto and stirred for 30 minutes, and water was added to the reaction solution which was then extracted with ethyl acetate. The extract was dried over magnesium sulfate, the solvent was removed under reduced pressure, and upon addition of toluene to the resulting oil, colorless crystals were formed. The crystals were collected by filtration, to give 31 g of the title compound.

reactant | 4-bromo-3-(4-fluorophenyl)-1-trityl-1H-pyrazole | 47.5 g | BrC=1C(=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C28H20BrFN2
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | triisopropyl borate | 17.2 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 3-(4-Fluorophenyl)-1-trityl-1H-4-pyrazolylboronic acid | 31 g | FC1=CC=C(C=C1)C1=NN(C=C1B(O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H22BFN2O2
